US05750574
3-tert-Butylamino-4-(3-trifluoromethoxy-benzylamino)- cyclobut-3-ene-1,2-dione
The title compound was prepared according to the procedure for example 1-step 2 except that 3-ethoxy-4-(tert-butylamino)-cyclobut-3-ene-1,2-dione was used in place of using (R)-3-ethoxy-4-(1,2,2-trimethyl-propylamino)-cyclobut-3-ene-1,2-dione and 3-trifluoromethoxy-benzylamine was used in place of 4-fluorobenzylamine. Yield: 66%; mp: 210-212° C.; 1H NMR (300 MHz, DMSO-d6): δ 1.36 (m, 9H), 4.76-4.81 (m 2H), 7.32-7.43 (m, 3H), 7.50-7.60 (m, 2H), 7.76-7.84 (brm, 1H); IR (KBr, cm-1): 3295m, 3239m, 3063w, 2973m, 1794m, 1655s, 1569s, 1542s, 1471s, 1446s, 1259-1168brs; MS (ES) m/z (relative intensity): 365 (M+ +Na, 50), 343 (M+ +H, 100); Anal. Calcd. for C16H17F3N2O3 : C, 56.14; H, 5.01; N, 8.18. Found: C, 55.91; H, 4.70; N, 7.99.

reactant | 3-ethoxy-4-(tert-butylamino)-cyclobut-3-ene-1,2-dione | C(C)OC=1C(C(C1NC(C)(C)C)=O)=O | C10H15NO3
reactant | (R)-3-ethoxy-4-(1,2,2-trimethyl-propylamino)-cyclobut-3-ene-1,2-dione | C(C)OC=1C(C(C1N[C@@H](C(C)(C)C)C)=O)=O | C12H19NO3
reactant | 3-trifluoromethoxy-benzylamine | FC(OC=1C=C(CN)C=CC1)(F)F | C8H8F3NO
reactant | KBr | [K+].[Br-]
product | 3-tert-Butylamino-4-(3-trifluoromethoxy-benzylamino)- cyclobut-3-ene-1,2-dione | Yield: 66% | C(C)(C)(C)NC=1C(C(C1NCC1=CC(=CC=C1)OC(F)(F)F)=O)=O | C16H17F3N2O3
